US07235572B2
In analogy to the procedure described in example 2 c], {6-[2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester was treated with NaOH to obtain {6-[2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-indol-1-yl}-acetic acid as orange solid.

reactant | {6-[2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=CC2=CC=C(C=C12)OCC1=CN=C(S1)C1=CC=C(C=C1)C(F)(F)F)=O | C25H23F3N2O3S
reactant | NaOH | [OH-].[Na+]
product | {6-[2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-indol-1-yl}-acetic acid | FC(C1=CC=C(C=C1)C=1SC(=CN1)COC1=CC=C2C=CN(C2=C1)CC(=O)O)(F)F | C21H15F3N2O3S
